US07282501B2
Step A: 3-{2-Formyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}acrylic acid tert-butyl ester
A flame-dried 100 mL round bottomed flask was charged with toluene-4-sulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)ethyl ester (3.74 g, 10.5 mmol), 3-(2-formyl-4-hydroxyphenyl)acrylic acid tert-butyl ester (2.0 g, 8.05 mmol), and anhydrous DMF (40 mL). Cesium carbonate (3.94 g, 12.1 mmol) was added, and the reaction was heated to 55° C. under a nitrogen atmosphere for 18 h. The volatiles were removed in vacuo, and the crude residue was dissolved in EtOAc (250 mL). The organic layer was washed with brine (2×), dried (Na2SO4), and concentrated to a yellow oil (1.70 g, 49%). 1H NMR (400 MHz, CDCl3) δ 1.54 (s, 9H), 2.38 (s, 3H), 3.01 (t, J=6.6 Hz, 2H), 4.34 (t, J=6.6 Hz, 2H), 6.24 (d, J=15.6 Hz, 1H), 7.12 (dd, J=8.8, 2.9 Hz, 1H), 7.38 (d, J=2.9 Hz, 1H), 7.40-7.45 (m, 3H), 7.58 (d, J=8.8 Hz, 1H), 7.98 (dd, J=6.4, 2.0 Hz, 2H), 8.33 (d, J=15.6 Hz, 1H), 10.3 (s, 1H). MS (ES) m/e 434 (M+1).

reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)ethyl ester | 10.5 mmol, 3.74 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | 3-(2-formyl-4-hydroxyphenyl)acrylic acid tert-butyl ester | 8.05 mmol, 2.0 g | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)O)C=O)=O | C14H16O4
reactant | Cesium carbonate | 12.1 mmol, 3.94 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-{2-Formyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}acrylic acid tert-butyl ester | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C=O)=O | C26H27NO5
